US07968573B2
To a mixture of 0.56 g of 3-amino-4-chloro-2-naphthoic acid and 20 ml of acetic acid was added dropwise 0.4 g of bromine at room temperature. The resulting mixture was stirred at room temperature for 1 hour. A deposited precipitate was collected by filtration, and the resulting solid was washed successively with acetic acid and ethyl acetate to obtain 0.36 g of 3-amino-7-bromo-4-chloro-2-naphthoic acid of the formula:

reactant | 3-amino-4-chloro-2-naphthoic acid | 0.56 g | NC=1C(=CC2=CC=CC=C2C1Cl)C(=O)O | C11H8ClNO2
reactant | bromine | 0.4 g | BrBr | Br2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-amino-7-bromo-4-chloro-2-naphthoic acid | 0.36 g | NC=1C(=CC2=CC(=CC=C2C1Cl)Br)C(=O)O | C11H7BrClNO2
